US07132426B2
Preparation of (4-Difluoromethoxy-phenyl)-{4-[1-(2-fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy]-piperidin-1-yl}-methanone (Compound A193)
4-Difluoromethoxy-benzoic acid (527 mg, 2.8 mmol) and HATU (1.06 g, 2.8 mmol) were stirred together in DMF at room temperature for 30 min. 1-(2-Fluoro-4-methanesulfonyl-phenyl)-4-(piperidin-4-yloxy)-1H-pyrazolo[3,4-d]pyrimidine hydrochloride (800 mg, 1.87 mmol) and triethylamine (785 μL, 5.61 mmol) were added next. The resulting mixture was allowed to stir for 24 hours. Progress of the reaction was monitored by TLC and LCMS. Removal of organic solvents in vacuo and purification by HPLC afforded Compound A193 as a beige solid (127 mg, 32%). Exact mass calculated for C25H22F2N5O5S 561.53, found 562.2 (MH+)

reactant | 4-Difluoromethoxy-benzoic acid | 2.8 mmol, 527 mg | FC(OC1=CC=C(C(=O)O)C=C1)F | C8H6F2O3
reactant | HATU | 2.8 mmol, 1.06 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-(2-Fluoro-4-methanesulfonyl-phenyl)-4-(piperidin-4-yloxy)-1H-pyrazolo[3,4-d]pyrimidine hydrochloride | 1.87 mmol, 800 mg | Cl.FC1=C(C=CC(=C1)S(=O)(=O)C)N1N=CC=2C1=NC=NC2OC2CCNCC2
reactant | triethylamine | 5.61 mmol, 785 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
product | (4-Difluoromethoxy-phenyl)-{4-[1-(2-fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy]-piperidin-1-yl}-methanone | 127 mg, 32% | FC(OC1=CC=C(C=C1)C(=O)N1CCC(CC1)OC1=C2C(=NC=N1)N(N=C2)C2=C(C=C(C=C2)S(=O)(=O)C)F)F | C25H22F3N5O5S
